US05866576
A mixture of 1-(5,6-dihydroxydecyl)-3,7-dimethylxanthine (2.11 g, 6 mmol) and a 30% solution of hydrogen bromide in acetic acid (3.58 mL, 18 mmol) was stirred for 90 minutes. The mixture was then added to a flask containing aqueous sodium bicarbonate solution (5 g in 40 mL ) and dichloromethane (50 mL). After 10 minutes of vigorous stirring, the layers were separated and the aqueous portion extracted with dichloromethane (2×50 mL). The combined organic phases were dried over sodium sulfate. The solvent was evaporated, yielding 2.72 g (100%) 1-(9-acetoxy-10-bromodecyl)-3,7-dimethylxanthine as a yellow oil. Without further purification, the oil was taken up in methanol (30 mL) and treated with a 1M solution of sodium methoxide (6 mL). After 30 minutes, the reaction mixture was added to water (30 mL) and extracted with dichloromethane (3×50 mL). The organic portions were combined and dried over sodium sulfate to give an off-white solid residue. Recrystalization in dichloromethane/petroleum ether yields 380 mg (91% yield) 1-(9,10-oxidodecyl)-3,7-dimethylxanthine.

reactant | 1-(5,6-dihydroxydecyl)-3,7-dimethylxanthine | 6 mmol, 2.11 g | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C(CCCC)O | C17H28N4O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 18 mmol, 3.58 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 40 mL, 5 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(9-acetoxy-10-bromodecyl)-3,7-dimethylxanthine | 2.72 g, 100% | C(C)(=O)OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C19H29BrN4O4
